US05304563
Methyl 2-[3-isobutyl-4-(quinolin-2-yl-methoxy)phenyl]-2-cycloheptylacetate
10 g (0.0275 mol) of methyl 2-[3-isobutyl-4-(quinolin-2-yl-methoxy)phenyl]acetate are reacted, in analogy to the procedure of Example 1, with 10.04 g (0.055 mol) of cycloheptyl bromide and 6.17 g (0.055 mol) of potassium tertiary butylate to give the title compound.

reactant | methyl 2-[3-isobutyl-4-(quinolin-2-yl-methoxy)phenyl]acetate | 0.0275 mol, 10 g | C(C(C)C)C=1C=C(C=CC1OCC1=NC2=CC=CC=C2C=C1)CC(=O)OC | C23H25NO3
reactant | cycloheptyl bromide | 0.055 mol, 10.04 g | C1(CCCCCC1)Br | C7H13Br
product | Methyl 2-[3-isobutyl-4-(quinolin-2-yl-methoxy)phenyl]-2-cycloheptylacetate | Yield: quantitative | C(C(C)C)C=1C=C(C=CC1OCC1=NC2=CC=CC=C2C=C1)C(C(=O)OC)C1CCCCCC1 | C30H37NO3
